US04595521
A solution of 84.5 g of trans-1-(2,2-dibromovinyl)-4-pentylcyclohexane in 800 ml of absolute tetrahydrofuran was cooled to -75° C. under nitrogen gasification and treated dropwise within 30 minutes with 400 ml of an about 1.6M solution of butyl lithium in hexane. The mixture was subsequently stirred at -70° C. for a further 2 hour, then poured into 5.5 l of 2% (wt./vol.) sodium hydrogen carbonate solution and extracted with 1 l of hexane. The aqueous phase was back-extracted with 700 ml of hexane. The combined organic phases were dried over sodium sulphate and freed from solvent on a rotary evaporator. Distillation of the resulting light yellow oil in a high vacuum gave in the main run 40.6 g (91.1%) of trans-1-ethynyl-4-pentylcyclohexane as a colourless liquid which still contained cis-isomer; b.p. 52°-54° C./0.02 Torr. By recrystallization from ethanol at -25° C. and drying up to constant weight at 30° C. in a vacuum drying oven there could be obtained 20.4 g of product free from cis-isomer. From the mother liquor there could be isolated according to the same method a further 6.5 g of product which was almost free from cis-isomer.

reactant | trans-1-(2,2-dibromovinyl)-4-pentylcyclohexane | 84.5 g | BrC(=C[C@@H]1CC[C@H](CC1)CCCCC)Br | C13H22Br2
reactant | butyl lithium | C(CCC)[Li]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | trans-1-ethynyl-4-pentylcyclohexane | 40.6 g, 91.1% | C(#C)[C@@H]1CC[C@H](CC1)CCCCC | C13H22
